US04760136
Synthesis of N-carbobenzyloxy-β-amino-isobutyric acid (used for preparing the compound No. 60)
In a mixture of 10 ml of pyridine and 10 ml of water was dissolved 500 mg of β-amino-isobutyric acid, and 1.5 ml of benzyloxycarbonyl chloride was dropped thereinto with stirring at 0° C. After completion of the dropping, the resulting mixture was stirred at room temperature for 3 hours, after which the pyridine was removed under reduced pressure. Then, hydrochloric acid was added to the residue, and the resulting mixture was extracted with ethyl acetate. The ethyl acetate layer obtained was washed successively with diluted hydrochloric acid, water and an aqueous sodium chloride solution, and then concentrated to obtain an oily substance. Subsequently, the oily substance was washed with a mixed solvent of ether and hexane to obtain 380 mg of the desired com- pound.

reactant | β-amino-isobutyric acid | 500 mg | NCC(C(=O)O)C | C4H9NO2
reactant | benzyloxycarbonyl chloride | 1.5 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 10 ml | O | H2O
product | N-carbobenzyloxy-β-amino-isobutyric acid | C(=O)(OCC1=CC=CC=C1)NCC(C(=O)O)C | C12H15NO4
